US04074051
4-Dimethylaminomethyl-1-p-chlorphenylpyrazolidin-3-one
p-Chlorphenylhydrazine (14.5g) was added to a solution of sodium isopropoxide (2.3g of sodium) in dry isopropanol (200 ml). The solution was boiled under reflux and ethyl-2-dimethylaminomethylacrylate (15.7g) was added in one portion. After boiling for 20 minutes, the solution was cooled to 0° C in a stoppered flask. Sulphuric acid (125 ml, 2N) was added and the mixture was extracted with ether (3 × 250 ml). The ether extract was discarded and the aqueous solution was adjusted to a pH of 8 with sodium hydroxide solution (approx 125 ml, 2N). Extraction of the aqueous mixture with chloroform gave a pale yellow extract, which, after evaporation of the chloroform, gave a buff solid. The solid was recrystallised from carbon tetrachloride as colourless needles of 4-dimethylaminomethyl-p-chlorphenylpyrazolidin-3-one (9g, 35%, melting point 107° C).

reactant | p-Chlorphenylhydrazine | 14.5g | ClC1=CC=C(C=C1)NN | C6H7ClN2
reactant | sodium isopropoxide | 2.3g | CC([O-])C.[Na+]
reactant | ethyl-2-dimethylaminomethylacrylate | 15.7g | C(C)OC(C(=C)CN(C)C)=O | C8H15NO2
reactant | Sulphuric acid | 2N, 125 ml | S(O)(O)(=O)=O | H2O4S
solvent | isopropanol | 200 ml | C(C)(C)O | C3H8O
product | 4-Dimethylaminomethyl-1-p-chlorphenylpyrazolidin-3-one | CN(C)CC1C(NN(C1)C1=CC=C(C=C1)Cl)=O | C12H16ClN3O
